US07265246B2
6-(4-Fluoro-2-methylphenyl)pyridine-3-carboxylic acid
Combine 6-bromopyridine-3-carboxylic acid methyl ester (387 mg, 1.79 mmol), 4-fluoro-2-methylphenylboronic acid (338 mg, 2.19 mmol), Pd(OAc)2 (40 mg, 0.18 mmol), cesium fluoride (27 mg, 0.18 mmol) and sodium carbonate (570 mg, 5.38 mmol) in dimethylformamide (6 mL) and water (6 mL) with stirring. Purge the reaction mixture with N2, add triphenylphosphine (47 mg, 0.18 mmol), and purge again with N2. Place the sealed reaction in an oil bath maintained at 80° C. and allow to stir for 17 hours. Cool the reaction to room temperature and pass through a short plug of silica gel. Wash the column with dichloromethane (100 mL) followed by aqueous methanol (100 mL, 3 methanol/1 water). Reduce the combined fractions in vacuo and suspend the residual solid in water (10 mL). Filter to remove a black solid and acidify with 1N hydrochloric acid solution to pH 4. A white precipitate forms which is collected by filtration and dried to give 306 mg (74%) of the title compound. MS (m/e): 231.9 (MH+).

reactant | 6-bromopyridine-3-carboxylic acid methyl ester | 1.79 mmol, 387 mg | COC(=O)C=1C=NC(=CC1)Br | C7H6BrNO2
reactant | 4-fluoro-2-methylphenylboronic acid | 2.19 mmol, 338 mg | FC1=CC(=C(C=C1)B(O)O)C | C7H8BFO2
reactant | cesium fluoride | 0.18 mmol, 27 mg | [F-].[Cs+]
reactant | sodium carbonate | 5.38 mmol, 570 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 0.18 mmol, 47 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | water | 6 mL | O | H2O
catalyst | Pd(OAc)2 | 0.18 mmol, 40 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6-(4-Fluoro-2-methylphenyl)pyridine-3-carboxylic acid | 306 mg, 74% | FC1=CC(=C(C=C1)C1=CC=C(C=N1)C(=O)O)C | C13H10FNO2
